US05242911
3-(4-[4-(2-Pyrimidinyl)-1-piperazinyl]butyl)8, 8-dimethyl-3-azabicyclo[3.2.1]octan-2,4-dione
Following substantially the procedure of Example 1, 0.54 g (2.34 mmol) of 1-(4-aminobutyl)-4-(2-pyrimidinyl) piperazine was reacted with 0.36 g (2.14 mmol) of 8,8-dimethyl-3-oxabicyclo[3.2.1]octan-2,4-dione. The product was chromatographed on silica gel, eluting with dichloromethane/methanol (96:4), to give 0.25 g (32% yield) of the title compound.

reactant | 1-(4-aminobutyl)-4-(2-pyrimidinyl) piperazine | 2.34 mmol, 0.54 g | NCCCCN1CCN(CC1)C1=NC=CC=N1 | C12H21N5
reactant | 8,8-dimethyl-3-oxabicyclo[3.2.1]octan-2,4-dione | 2.14 mmol, 0.36 g | CC1(C2C(OC(C1CC2)=O)=O)C | C9H12O3
product | 3-(4-[4-(2-Pyrimidinyl)-1-piperazinyl]butyl)8, 8-dimethyl-3-azabicyclo[3.2.1]octan-2,4-dione | 0.25 g, 32% yield | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(C2CCC(C1=O)C2(C)C)=O | C21H31N5O2
